US05840732
ii) Synthesis of 5-pentylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride
To a methanol solution of 0.934 g (2.5 mmol) of 5-pentylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione, 0.625 ml of 4N hydrochloric acid-ethyl acetate was added, followed by stirring. After the solvent was distilled off, the residue was washed with ether to yield 1.03 g (quant., white solid) of the desired product.

reactant | 5-pentylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | 2.5 mmol, 0.934 g | C(CCCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | C19H23N3O3S
reactant | hydrochloric acid ethyl acetate | 4N, 0.625 ml | Cl.C(C)(=O)OCC
solvent | methanol | CO | CH4O
product | 5-pentylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCCC)=C1C(N(C(S1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | InChI=1S/C19H23N3O3S.ClH/c1-2-3-4-9-16-18(23)22(19(24)26-16)12-5-6-14-25-15-8-7-11-21-13-10-20-17(15)21;/h7-11,13H,2-6,12,14H2,1H3;1H
